US07338958B2
ze) Production of (RS)-S-ethyl-N-({[(1R,2S,5R)-2-isopropyl-5-methyl-cyclohexyl]oxy}carbonyl)-S-(4-nitrophenyl)sulfoximide
100 mg (0.47 mmol) of (RS)-S-(4-nitrophenyl)-S-ethyl sulfoximide in 4.40 ml of pyridine is mixed drop by drop at room temperature with 0.46 ml (2.17 mmol) of (+) menthyl chloroformate. The batch is stirred for 4 hours at room temperature and then added to dilute NaCl solution. It is extracted from ethyl acetate. The combined organic phases are dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (hexane/ethyl acetate 1:1). 161 mg (0.41 mmol, corresponding to 87% of theory) of the product is obtained.

reactant | (RS)-S-(4-nitrophenyl)-S-ethyl sulfoximide | 0.47 mmol, 100 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=N)CC | C8H10N2O3S
reactant | (+) menthyl chloroformate | 2.17 mmol, 0.46 ml | ClC(=O)OC1CC(CCC1C(C)C)C | C11H19ClO2
reactant | NaCl | [Na+].[Cl-]
solvent | pyridine | 4.40 ml | N1=CC=CC=C1 | C5H5N
product | (RS)-S-ethyl-N-({[(1R,2S,5R)-2-isopropyl-5-methyl-cyclohexyl]oxy}carbonyl)-S-(4-nitrophenyl)sulfoximide | C(C)S(=O)(=NC(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C19H28N2O5S
